US05013738
F. Methyl 4-(6-Carboethoxy-6-cyanohex-1-en-2-yl)benzoate
A 1 liter three neck round bottomed-flask was equipped with a reflux condenser, addition funnel, and gas inlet, and charged with a mixture of 0.10 g (5.0 eq) of 80% sodium hydride in 40 ml of anhydrous tetrahydrofuran. This mixture was cooled to 0° C. and a solution of 0.39 ml (5.5 eq) of ethyl cyanoacetate in anhydrous tetrahydrofuran was added dropwise under a nitrogen atmosphere. The mixture was vigorously stirred and allowed to attain room temperature until hydrogen evolution was no longer observed. To the mixture was then added 0.40 g (1.0 eq) of methyl 4-(5-methylsulfonyloxy-pent-1-en-2-yl)benzoate in 5 ml of anhydrous tetrahydrofuran. The mixture was then refluxed for 15 hours, saturated ammonium chloride solution was added, and the solution extracted three times with diethylether. The extracts were dried over magnesium sulfate, and concentrated under reduced pressure to give the product (containing some unreacted ethyl cyanoacetate which can be removed by Kugelrohr distillation at 40° C./1 mm Hg). Further purification of the product was accomplished by flash chromatography, eluting with 1:3 ethylacetate:hexanes. M.S.:m/z=315.1458 (M+, calc. for C18H21O4N: 315.1470), 284 (M+ --CH3O), 202 (M+ --EtO2C--CH2 --CN), 176, 143 (100%). 1H-N M.R.(CDCl3, 300 MHz): δ=1.28(t, 3H, CH3 --CH2O, J=7.5 Hz); 1.64(quin, 2H, CH2 --CH2 --CH2, J=7.5 Hz); 1.96(dt, 2H, CH2 --CH, J=7.5 Hz); 2.60(t, 2H, CH2 --C=, J=7.5Hz); 3.44(t, 1H, CH--CN, J=7.5 Hz); 3.92(s, 3H, CH3O); 4.22(q, 2H, CH3 --CH2O, J=7.5 Hz); 5.19(s, 1Holef.); 5.41(s, 1Holef.); 7.42 (d, 2Harom., J=9 Hz); 8.00(d, 2Harom., J=9 Hz).

reactant | sodium hydride | 0.10 g, 5.0 eq | [H-].[Na+]
reactant | ethyl cyanoacetate | 0.39 ml, 5.5 eq | C(#N)CC(=O)OCC | C5H7NO2
reactant | hydrogen | [H][H] | H2
reactant | methyl 4-(5-methylsulfonyloxy-pent-1-en-2-yl)benzoate | 0.40 g, 1.0 eq | CS(=O)(=O)OCCCC(=C)C1=CC=C(C(=O)OC)C=C1 | C14H18O5S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Methyl 4-(6-Carboethoxy-6-cyanohex-1-en-2-yl)benzoate | C(=O)(OCC)C(CCCC(=C)C1=CC=C(C(=O)OC)C=C1)C#N | C18H21NO4
